US08648208B2
(3) 2-Methyl-4-[3-(3-methylbenzothiophen-2-yl)propionyl]phenoxyacetic acid
To a solution of ethyl 2-methyl-4-[3-(3-methylbenzothiophen-2-yl)propionyl]phenoxyacetate in ethanol (2 mL)/water (1 mL) was added lithium hydroxide monohydrate (70 mg, 1.7 mmol). The mixture was heated under reflux for 1 hour, cooled at room temperature. After addition of ice, the resultant mixture was acidified with 1M hydrochloric acid, and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was recrystallized from ethyl acetate/hexane to give the titled compound as a pale yellow crystal (120 mg, 59%).

reactant | ethyl 2-methyl-4-[3-(3-methylbenzothiophen-2-yl)propionyl]phenoxyacetate | CC1=C(OCC(=O)OCC)C=CC(=C1)C(CCC=1SC2=C(C1C)C=CC=C2)=O | C23H24O4S
reactant | water | 1 mL | O | H2O
reactant | lithium hydroxide monohydrate | 1.7 mmol, 70 mg | O.[OH-].[Li+]
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 2-Methyl-4-[3-(3-methylbenzothiophen-2-yl)propionyl]phenoxyacetic acid | 120 mg, 59% | CC1=C(OCC(=O)O)C=CC(=C1)C(CCC=1SC2=C(C1C)C=CC=C2)=O | C21H20O4S
